US05560866
40.0 g of the thus obtained 4-(trans-4-(2-(3,4-difluorophenyl)ethenyl)cyclohexyl)-1-n-pentyl-1-phenyl-1-silacyclohexane was dissolved in 200 ml of ethyl acetate and hydrogenated in the presence of 200 mg of platinum oxide at a pressure of 0.1 MPa of hydrogen. After theoretical consumption of hydrogen, the catalyst was removed by filtration and the resultant filtrate was concentrated to obtain 40.2 g of 4-(trans-4-(2-(3,4-difluorophenyl)ethyl)cyclohexyl)-1-n-pentyl-1-phenyl-1-silacyclohexane. The results of IR analysis of the product are as follows.

reactant | 4-(trans-4-(2-(3,4-difluorophenyl)ethenyl)cyclohexyl)-1-n-pentyl-1-phenyl-1-silacyclohexane | FC=1C=C(C=CC1F)C=C[C@@H]1CC[C@H](CC1)C1CC[Si](CC1)(C1=CC=CC=C1)CCCCC | C30H40F2Si
reactant | hydrogen | [H][H] | H2
solvent | ethyl acetate | 200 ml | C(C)(=O)OCC | C4H8O2
catalyst | platinum oxide | 200 mg | [Pt]=O
product | 4-(trans-4-(2-(3,4-difluorophenyl)ethyl)cyclohexyl)-1-n-pentyl-1-phenyl-1-silacyclohexane | 40.2 g | FC=1C=C(C=CC1F)CC[C@@H]1CC[C@H](CC1)C1CC[Si](CC1)(C1=CC=CC=C1)CCCCC | C30H42F2Si
